US06194425B1
Using the general method of Example 47, phenyl chloroformate (61 μL, 0.48 mmol) was reacted with 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine (0.15 g, 0.48 mmole) to provide 0.12 g of phenyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate as a solid. Analysis: Calculated for C24H28N6O2: % C, 66.65; % H, 6.53; % N, 19.43; Found: % C, 66.49; % H, 6.59; % N, 19.32.

reactant | phenyl chloroformate | 0.48 mmol, 61 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butaneamine | 0.48 mmole, 0.15 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCN)CCCC | C17H24N6
product | phenyl N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)butyl]carbamate | 0.12 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCCNC(OC2=CC=CC=C2)=O)CCCC | C24H28N6O2
